US04460682
(1) Preparation of 5-hexadecyltriethylenetetramine
A mixture of 1,2-dibromooctadecane (80 g) and anhydrous ethylenediamine (230 g) was added to 400 ml of ehtanol, and the mixture was refluxed under heating for 10 hours. Then, potassium hydroxide (30 g) was added, and the ethanol was distilled off under reduced pressure. The residue was extracted with 400 ml of benzene and recrystallized from 180 ml of ether to produce a pale yellow product.

reactant | 1,2-dibromooctadecane | 80 g | BrCC(CCCCCCCCCCCCCCCC)Br | C18H36Br2
reactant | ethylenediamine | 230 g | C(CN)N | C2H8N2
reactant | potassium hydroxide | 30 g | [OH-].[K+]
product | 5-hexadecyltriethylenetetramine | C(CCCCCCCCCCCCCCC)C(NCCN)CNCCN | C22H50N4
